US03957844
Into a 500 ml. three-necked flask were charged 108 g. (0.78 mole) 1-phenyl-ethanethiol, 126 g. (0.78 mole) vinyltrichlorosilane and 1.2 g. (0.5 weight percent) azobisisobutyronitrile catalyst. The contents were heated and stirred for 6 hours at 80°-90°C. Fractional distillation of the reaction mixture gave the product fraction, Cl3SiCH2CH2SCH(CH3)C6H5, b.p. 110°/0.53 mm Hg. Vapor phase chromatographic analysis of the distilled product (120 g.) showed it contained a mixture of alpha and beta isomers. Yield of (1-phenylethylthio)ethyltrichlorosilane was 85 percent, based on ViSiCl3 reacted.

reactant | 1-phenyl-ethanethiol | 0.78 mole | C1(=CC=CC=C1)C(C)S | C8H10S
reactant | vinyltrichlorosilane | 0.78 mole | C(=C)[Si](Cl)(Cl)Cl | C2H3Cl3Si
catalyst | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | Cl3SiCH2CH2SCH(CH3)C6H5 | [Si](Cl)(Cl)(Cl)CCSC(C)C1=CC=CC=C1 | C10H13Cl3SSi
